US08222246B2
b)[3-(4-Fluoro-phenyl)-5-((E)-styryl)-isoxazol-4-yl]-methanol
To a solution of 3-(4-fluoro-phenyl)-5-((E)-styryl)-isoxazole-4-carboxylic acid (19.0 g, 61.4 mmol) and triethylamine (8.6 mL, 61.4 mmol) in THF (475 mL) was added at room temperature a solution of ethyl chloroformate (5.97 mL, 61.4 mmol) in THF (55 mL). After 1 h the triethylamine hydrochloride salt was filtered off and washed with a small amount of THF. The mixture was added to a solution of sodium borohydride (6.05 g, 154 mmol) and water (55 mL). After stirring overnight at room temperature aqueous sodium hydroxide solution (1 N, 180 mL) was added. Extraction with tert-butylmethylether, removal of the solvent by distillation and chromatography (silica, dichloromethane:methanol=1:0 to 95:5) afforded the title compound (11.4 g, 63%) as light yellow solid. MS: m/e=296.2 [M+H]+.

reactant | 3-(4-fluoro-phenyl)-5-((E)-styryl)-isoxazole-4-carboxylic acid | 61.4 mmol, 19.0 g | FC1=CC=C(C=C1)C1=NOC(=C1C(=O)O)\C=C\C1=CC=CC=C1 | C18H12FNO3
reactant | triethylamine | 61.4 mmol, 8.6 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 61.4 mmol, 5.97 mL | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 154 mmol, 6.05 g | [BH4-].[Na+]
reactant | sodium hydroxide | 1 N, 180 mL | [OH-].[Na+]
solvent | THF | 475 mL | C1CCOC1 | C4H8O
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | water | 55 mL | O | H2O
product | [3-(4-Fluoro-phenyl)-5-((E)-styryl)-isoxazol-4-yl]-methanol | 11.4 g, 63% | FC1=CC=C(C=C1)C1=NOC(=C1CO)\C=C\C1=CC=CC=C1 | C18H14FNO2
